US20010001799A1
2.49 g of 5-ethoxy-2-hydroxy-benzaldehyde, 2.7 ml of ethyl 5-bromovalerate, 15 ml of DMSO, 3.1 g of K2CO3 and 75 mg of KI were stirred for 2.5 hrs. at 55° C. After working up and chromatography on silica gel there were obtained 4.7 g of ethyl 5-(4-ethoxy-2-formyl-phenoxy)-pentanoate. MS: 294 (M)+.

reactant | 5-ethoxy-2-hydroxy-benzaldehyde | 2.49 g | C(C)OC=1C=CC(=C(C=O)C1)O | C9H10O3
reactant | ethyl 5-bromovalerate | 2.7 ml | BrCCCCC(=O)OCC | C7H13BrO2
reactant | K2CO3 | 3.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | ethyl 5-(4-ethoxy-2-formyl-phenoxy)-pentanoate | 4.7 g | C(C)OC1=CC(=C(OCCCCC(=O)OCC)C=C1)C=O | C16H22O5
